US05461155
Benzoyl chloride (1.8 ml) was added portionwise to a vigorously stirred suspension of 2.39 g 4-amino-3-hydroxy-1-napthalenesulfonic acid in a mixture of 50 ml pyridine and 20 ml water with cooling in an ice bath. The mixture was stirred for 2 hours at room temperature. The solid product was collected and washed with 10 ml of ice-cold water. Drying in a vacuum oven gave crude pyridinium 3-hydroxy-4-(N-benzoylamino)-1-naphthalenesulfonate (2.55 g, 60%); an analytical sample was prepared by recrystallization from a mixture of tetrahydrofuran and water (9:1), m.p. 225° C.

reactant | Benzoyl chloride | 1.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-amino-3-hydroxy-1-napthalenesulfonic acid | 2.39 g | NC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)O)O | C10H9NO4S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 20 ml | O | H2O
product | pyridinium 3-hydroxy-4-(N-benzoylamino)-1-naphthalenesulfonate | 2.55 g, 60% | OC=1C=C(C2=CC=CC=C2C1NC(C1=CC=CC=C1)=O)S(=O)(=O)[O-].[NH+]1=CC=CC=C1 | InChI=1S/C17H13NO5S.C5H5N/c19-14-10-15(24(21,22)23)12-8-4-5-9-13(12)16(14)18-17(20)11-6-2-1-3-7-11;1-2-4-6-5-3-1/h1-10,19H,(H,18,20)(H,21,22,23);1-5H
